US04598079
3-(3,4-dimethoxyphenyl)-piperazin-2-one
23.4 g (0.1 mol) of 3-(3,4-dimethoxyphenyl)-5,6-dihydro-2(1H)-pyrazinone are dissolved in 230 ml of ethanol and hydrogenated, in the presence of Raney nickel as the catalyst, at 40° to 60° C. and under a hydrogen pressure of 50 bar until saturation is reached. The catalyst is then filtered off, the filtrate is evaporated in vacuo and the residue is triturated with ether.

reactant | 3-(3,4-dimethoxyphenyl)-5,6-dihydro-2(1H)-pyrazinone | 0.1 mol, 23.4 g | COC=1C=C(C=CC1OC)C=1C(NCCN1)=O | C12H14N2O3
solvent | ethanol | 230 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(3,4-dimethoxyphenyl)-piperazin-2-one | COC=1C=C(C=CC1OC)C1C(NCCN1)=O | C12H16N2O3
